US04745114
A solution of 3,4-dihydro-1-benzopyran-2-carboxylic acid (0.59 g 3.3 mmol) in thionyl chloride (15 ml) was stirred at 20° C. for 16 hours. Excess thionyl chloride was evaporated, azeotroping with dry toluene, to give 3,4-dihydro-1-benzopyran-2-carboxylic acid chloride as a yellow oil (νmax (film) 1805 cm-1) which was used immediately.

reactant | 3,4-dihydro-1-benzopyran-2-carboxylic acid | 3.3 mmol, 0.59 g | O1C(CCC2=C1C=CC=C2)C(=O)O | C10H10O3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,4-dihydro-1-benzopyran-2-carboxylic acid chloride | O1C(CCC2=C1C=CC=C2)C(=O)Cl | C10H9ClO2
